US09102621B2
4-({[5-Chloro-6-(3,3,3-trifluoropropoxy)pyridin-3-yl]oxy}methyl)-2,5-difluoro-N-(methylsulfonyl)benzamide
Potassium carbonate (61 mg, 0.229 mmol) was added to a solution of 5-chloro-6-(3,3,3-trifluoropropoxy)pyridin-3-ol (Preparation 67, 45 mg, 0.19 mmol) in DMSO (2 mL) and the reaction mixture was stirred under a nitrogen atmosphere at room temperature for 5 minutes. 4-(Bromomethyl)-2,5-difluoro-N-(methylsulfonyl)benzamide (Preparation 10, 63 mg, 0.19 mmol) was then added and the resulting mixture stirred under nitrogen at room temperature for 120 hours. The reaction mixture was diluted with aqueous hydrochloric acid solution (2 M, 15 mL), extracted with EtOAc (20 mL). The organic layer was washed with aqueous hydrochloric acid solution (2 M, 2×10 mL), dried over magnesium sulfate, filtered and evaporated in vacuo. The resulting crude solid was triturated with TBME/heptane (2:1), washed with heptane and dried in vacuo to yield the title compound as an off-white solid (73 mg, 74%):

reactant | Potassium carbonate | 0.229 mmol, 61 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 5-chloro-6-(3,3,3-trifluoropropoxy)pyridin-3-ol | 0.19 mmol, 45 mg | ClC=1C=C(C=NC1OCCC(F)(F)F)O | C8H7ClF3NO2
reactant | 4-(Bromomethyl)-2,5-difluoro-N-(methylsulfonyl)benzamide | 0.19 mmol, 63 mg | BrCC1=CC(=C(C(=O)NS(=O)(=O)C)C=C1F)F | C9H8BrF2NO3S
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | hydrochloric acid | 2 M, 15 mL | Cl | ClH
product | 4-({[5-Chloro-6-(3,3,3-trifluoropropoxy)pyridin-3-yl]oxy}methyl)-2,5-difluoro-N-(methylsulfonyl)benzamide | 73 mg, 74% | ClC=1C=C(C=NC1OCCC(F)(F)F)OCC1=CC(=C(C(=O)NS(=O)(=O)C)C=C1F)F | C17H14ClF5N2O5S
